US07122557B2
Part A: 4-Nitrobenzonitrile (5.4 g, 36.5 mmol) was dissolved in 200 mL of anhydrous methyl acetate and 20 mL of MeOH. The whole mixture was cooled to 0° C. and bubbled with dry HCL gas for 1 hour. The resulting mixture was placed at 5° C. for 12 hours, the solvent was removed to obtain 5.8 g of methyl 4-nitrobenzimidate as its HCl salt.

reactant | 4-Nitrobenzonitrile | 36.5 mmol, 5.4 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | methyl acetate | 200 mL | C(C)(=O)OC | C3H6O2
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 4-nitrobenzimidate | 5.8 g | [N+](=O)([O-])C1=CC=C(C(OC)=N)C=C1 | C8H8N2O3
